US04549019
A stirred suspension of 500 g of methyl 2-amino-1,6-dihydro-6-oxo-4-pyrimidinecarbamate in 1.45 l of N-methylmorpholine and 9 l of methylene chloride is heated to reflux temperature. Subsequently, 815 g of toluene-4-sulfonyl chloride are added thereto and the mixture is stirred at reflux for 16 hours. The mixture is evaporated at 40° in a water-jet vacuum and the residue is treated with 9 l of water. The insoluble material is filtered off under suction and washed firstly with 5 l of water and thereafter with 5 l of ether. After drying at 40° in vacuo, there is obtained light brown methyl 2-amino-6-[(p-tolylsulfonyl)oxy]-4-pyrimidinecarbamate of melting point 188°-190°. A sample recrystallized from acetonitrile has a melting point of 190°-192°.

reactant | methyl 2-amino-1,6-dihydro-6-oxo-4-pyrimidinecarbamate | 500 g | NC=1NC(C=C(N1)NC(=O)OC)=O | C6H8N4O3
reactant | toluene-4-sulfonyl chloride | 815 g | C1(=CC=C(C=C1)S(=O)(=O)Cl)C | C7H7ClO2S
solvent | N-methylmorpholine | 1.45 l | CN1CCOCC1 | C5H11NO
solvent | methylene chloride | 9 l | C(Cl)Cl | CH2Cl2
product | methyl 2-amino-6-[(p-tolylsulfonyl)oxy]-4-pyrimidinecarbamate | NC1=NC(=CC(=N1)NC(=O)OC)OS(=O)(=O)C1=CC=C(C=C1)C | C13H14N4O5S
